US05006515
Dimethyl 3(4-nitrophenyl)-2-isoxazolin-5-ylphosphonate (by procedure (a))
Preparation is carried out in analogy to Example 1 from 19.6 g (0.118 mol) of 4-nitrobenzaldoxime, 17.4 g (0.13 mol) of N-chlorosuccinimide, 16.1 g (0.118 mol) of dimethyl vinylphosphonate and 18.7 ml (0.13 mol) of triethylamine. Crystallization of the crude product from tert.butyl methyl ether provides analytically pure compound of melting point 156° to 158° C.

reactant | 4-nitrobenzaldoxime | 0.118 mol, 19.6 g | [N+](=O)([O-])C1=CC=C(C=NO)C=C1 | C7H6N2O3
reactant | N-chlorosuccinimide | 0.13 mol, 17.4 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dimethyl vinylphosphonate | 0.118 mol, 16.1 g | C(=C)P(OC)(OC)=O | C4H9O3P
reactant | triethylamine | 0.13 mol, 18.7 ml | C(C)N(CC)CC | C6H15N
product | Dimethyl 3(4-nitrophenyl)-2-isoxazolin-5-ylphosphonate | [N+](=O)([O-])C1=CC=C(C=C1)C1=NOC(C1)P(OC)(OC)=O | C11H13N2O6P
